US07030141B2
Step 4: (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(3-fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
(2R,4R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.95 g, 1.84 mmol), 2-(methylthio)benzene boronic acid (0.37 g, 2.2 mmol), and tetrabutylammonium bromide (30 mg, 0.09 mmol) were combined in 15 mL toluene, added 2 mL of a 2M aqueous Na2CO3 solution followed by tetrakistriphenylphosphine palladium(0) (0.11 g, 0.09 mmol). Heated reaction at reflux for 5 hours, cooled, dissolved in EtOAc (100 mL), washed with water (3×50 mL), brine (50 mL), dried with MgSO4, filtered, and concentrated. Purified on a silica gel column eluted using an automated system with gradient of 0-60% EtOAc in hexanes over 40 minutes. Combined and concentrated pure fractions to yield title compound as a light yellow foam. (0.77 g, 74%) APCI (AP−): 559.3 (M−H)−.

reactant | (2R,4R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.84 mmol, 0.95 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(NC1=C(C=C(C=C1)Br)F)=O | C22H34BrFN2O4Si
reactant | 2-(methylthio)benzene boronic acid | 2.2 mmol, 0.37 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.09 mmol, 30 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(3-fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)F)=O | C29H41FN2O4SSi
